US05047534
1,3-Diallyl-6-aminouracil (5 g) was suspended in 400 ml of water in a 1 L round bottom flask with overhead stirring. Acetic acid (6.7 ml of a 20% solution) was added, followed by intermittent addition of 2 ml of concentrated hydrochloric acid and a sodium nitrite solution (1.53 g in 7 ml water). After 4 hours, this solution was filtered, washed with water, collected and dried in a vacuum oven at 80° C. for 20 hours to yield 4.54 g of 1,3-diallyl-5-nitroso-6-aminouracil as a purple solid, m.p. 170°-180° C. (87% yield).

reactant | 1,3-Diallyl-6-aminouracil | 5 g | C(C=C)N1C(=O)N(C(=O)C=C1N)CC=C | C10H13N3O2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | sodium nitrite | 7 ml, 1.53 g | N(=O)[O-].[Na+]
solvent | water | 400 ml | O | H2O
product | 1,3-diallyl-5-nitroso-6-aminouracil | 4.54 g, 87% yield | C(C=C)N1C(=O)N(C(=O)C(=C1N)N=O)CC=C | C10H12N4O3
